### PR TITLE
[Merged by Bors] - feat: drop an assumption in congruence lemma for manifold derivatives

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 1]
```diff
@@ -1038,31 +1038,44 @@ theorem MDifferentiableWithinAt.mfderivWithin_mono_of_mem_nhdsWithin
...
+    mfderivWithin I I' f₁ s x = mfderivWithin I I' f s x := by
   by_cases h : MDifferentiableWithinAt I I' f s x
-  · exact (h.hasMFDerivWithinAt.congr_of_eventuallyEq hL hx).mfderivWithin hs
+  · unfold mfderivWithin
+    simp only [h, (hL.mdifferentiableWithinAt_iff hx).1 h, ↓reduceIte, writtenInExtChartAt]
+    apply Filter.EventuallyEq.fderivWithin_eq; swap
+    · simp [hx]
+    filter_upwards [extChartAt_preimage_mem_nhdsWithin (I := I) hL] with y hy
+    simp only [preimage_setOf_eq, mem_setOf_eq] at hy
+    simp [-extChartAt, hy, hx]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:1050]: The `-extChartAt` is a small code smell --- but I see why `extChartAt` is marked simp; perhaps this is the locally optimal proof.

**Review by grunweg — APPROVED** [review]
Thanks! One question, but otherwise good to go.

**Comment by grunweg** [comment]
If I understand correctly, I have to type this in a comment now:
maintainer delegate

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:1050]: Yes, there is a difficulty with simp normal forms in the manifold library, coming from the following: if a point if is the source of a local equiv, then a lot of simp lemmas can fire. But the source of `chartAt H x` and `extChartAt I x` are the same, so if you have `y \in (chartAt H x).source` the simp lemmas for `extChartAt` will not fire, and conversely. Our simplification is to simplify `extChartAt`, but this is sometimes not desirable.

**Comment by PatrickMassot** [comment]
bors d+
